US04925879
A solution of p-toluenesulphonylmethylisocyanide sold under the trade name TosMIC (5 g) in dimethylformamide (10 ml) was added at 0° C. under argon over a period of 10 minutes to a stirred suspension of sodium hydride (3.6 g of a 50% dispersion in mineral oil) in dimethylformamide (30 ml). Ethanol (3.6 ml) was then added at 0° C. After 30 minutes a solution of 6-[1-(4-chlorophenyl)cyclobutyl]-6-dimethylaminohexan-2-one (6.11 g prepared in a similar manner to that described in Example 53) in tetrahydrofuran (50 ml) was added at 0° C. and the mixture stirred at ambient temperature for 16 hours. The reaction mixture was poured into water and the aqueous mixture extracted with ether. The extracts were washed, dried and evaporated to give an oil which was distilled on a Buchi Kugelrohr apparatus (150° C./0.35 mm). The distillate was dissolved in ether and treated with maleic acid to give a gum which was washed with ether and basified to give 6-[1-(4-chlorophenyl)cyclobutyl]-6-dimethylamino-2-methylhexanenitrile (mp 54°-56° C.).

reactant | p-toluenesulphonylmethylisocyanide | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | TosMIC | 5 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | sodium hydride | [H-].[Na+]
reactant | Ethanol | 3.6 ml | C(C)O | C2H6O
reactant | 6-[1-(4-chlorophenyl)cyclobutyl]-6-dimethylaminohexan-2-one | ClC1=CC=C(C=C1)C1(CCC1)C(CCCC(C)=O)N(C)C | C18H26ClNO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 6-[1-(4-chlorophenyl)cyclobutyl]-6-dimethylamino-2-methylhexanenitrile | ClC1=CC=C(C=C1)C1(CCC1)C(CCCC(C#N)C)N(C)C | C19H27ClN2
